US05095013
(E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]-N-methylacrylamide
The same operation as in Reference Example 4-2) was carried out by using (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N-methylacrylamide (the compound obtained in Reference Example 5-1); 1.54 g, 3 mmol) and triethylsilane (0.49 ml, 3.15 mmol), followed by flash column chromatographic purification on silica gel (Wakogel® C-300, 40 ml, elution with acetone-methylene chloride 1:1) to give the title compound (620 mg, 76.3% yield).

reactant | (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N-methylacrylamide | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)NC | C31H32N2O3S
reactant | triethylsilane | 3.15 mmol, 0.49 ml | C(C)[SiH](CC)CC | C6H16Si
product | (E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]-N-methylacrylamide | 620 mg, 76.3% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)/C=C/C(=O)NC | C12H18N2O3S
